US08492582B2
Dioxane (53 mL), bis(pinacolato)diboron (4.0 g), potassium acetate (2.6 g), and (1,1′-bis(diphenylphosphino)ferrocene)palladium(II) dichloride methylene chloride complex (0.54 g) were added to benzyl 2-(benzyloxy)-5-bromobenzoate (5.3 g), followed by heating to reflux under a nitrogen atmosphere for 2 hours and 30 minutes. After cooling the reaction mixture to room temperature, the insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Fuji Silysia Chemical Ltd., PSQ100B (spherical), eluent: 98-82% hexane/ethyl acetate] to obtain 5.3 g of benzyl 2-(benzyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate.

reactant | bis(pinacolato)diboron | 4.0 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.6 g | C(C)(=O)[O-].[K+]
reactant | benzyl 2-(benzyloxy)-5-bromobenzoate | 5.3 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)Br | C21H17BrO3
solvent | Dioxane | 53 mL | O1CCOCC1 | C4H8O2
product | benzyl 2-(benzyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 5.3 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C27H29BO5
